US06617339B1
5-Amino-2-(3-cyano-1-pyrrolyl)fluorobenzene
3-Fluoro-4-(3-cyano-1-pyrrolyl)nitrobenzene (5.3 g, 22.9 mmnol) was dissolved in hot MeOH (250 ml) and palladium catalyst (10% on charcoal, 700 mg) added under a nitrogen atmosphere. The mixture was cooled and hydrogenated at atmospheric pressure for 3.5 hours. After filtration through celite, the solution was evaporated to dryness to give title product in sufficent purity for the next stage (4.6 g).

reactant | 3-Fluoro-4-(3-cyano-1-pyrrolyl)nitrobenzene | 5.3 g | FC=1C=C(C=CC1N1C=C(C=C1)C#N)[N+](=O)[O-] | C11H6FN3O2
solvent | MeOH | 250 ml | CO | CH4O
catalyst | palladium | 700 mg | [Pd] | Pd
product | 5-Amino-2-(3-cyano-1-pyrrolyl)fluorobenzene | NC=1C=CC(=C(C1)F)N1C=C(C=C1)C#N | C11H8FN3
